US07754737B2
To a solution of above crude (2-(trimethylsilyl)ethyl)(R)-2-(t-butoxycarbonylamino)-2-formylethylmethylcarbamate (0.71 g, 2.05 mmol) in toluene (6 mL) at −78° C. was added cyclohexylmagnesium chloride (2 M in ether, 5.13 mL) dropwise. The resulting solution was stirred at −78° C. for 1 h, allowed to warm slowly to rt, and quenched with sat'd aq NH4Cl (5 mL). The organic layer was separated, and aqueous layer was extracted with ether (2×5 mL). The combined organic layers were concentrated in vacuo, and the residue was purified by flash column chromatography to give (1R,2R)-2-(t-butoxycarbonylamino)-1-cyclohexyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-1-ol (209.7 mg, 24%). 1H NMR (400 MHz, CDCl3): 4.94 (d, 1H), 4.16 (m, 2H), 3.80 (m, 1H), 3.78 (m, 1H), 3.04 (m, 1H), 2.88 (m, 1H), 2.86 (s, 3H), 2.10 (m, 1H), 1.64 (m, 4H), 1.42 (m, 1H), 1.40 (s, 9H), 1.28-1.02 (m, 4H), 0.98 (m, 2H), 0.82 (m, 4H), 0.02 (s, 9H); MS m/z 431 (M+H+).

reactant | (2-(trimethylsilyl)ethyl)(R)-2-(t-butoxycarbonylamino)-2-formylethylmethylcarbamate | 2.05 mmol, 0.71 g | C[Si](CCOC(N(C)C[C@H](C=O)NC(=O)OC(C)(C)C)=O)(C)C | C15H30N2O5Si
reactant | cyclohexylmagnesium chloride | 2 M, 5.13 mL | C1(CCCCC1)[Mg]Cl
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | (1R,2R)-2-(t-butoxycarbonylamino)-1-cyclohexyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-1-ol | 209.7 mg, 24% | C(C)(C)(C)OC(=O)N[C@@H]([C@H](O)C1CCCCC1)CN(C(=O)OCC[Si](C)(C)C)C | C21H42N2O5Si
